US06593333B1
4-[4-Chloro-3-(3,4dimethoxybenzamido)anilino]-6,7-dimethoxyquinazoline hydrochloride
3,4-Dimethoxybenzoyl chloride (200 mg) and triethylamine (0.125 ml) were added to a suspension of 4-(3-amino-4-chloroanilino)-6,7-dimethoxyquinazoline (150 mg) in dry methylene chloride (3 ml) and the mixture was stirred at ambient temperature for 18 hours. The reaction mixture was diluted with methylene chloride and washed with water and brine and evaporated. The residue was triturated with diethyl ether (3×100 ml). The resulting solid was stirred in ethereal hydrogen chloride at ambient temperature for 18 hours and the mixture was evaporated to dryness. The resulting solid was triturated with isohexane and dried under vacuum. The title compound was obtained as a solid (30 mg); NMR: 3.85 (s, 6H), 3.92 (s, 3H), 3.96 (s, 3H), 6.98 (m, 1H), 7.32 (s, 1H), 7.45 (m, 2H), 7.65 (m, 2H), 7.99 (m, 1H), 8.15 (s, 1H), 8.88 (s, 1H), 9.98 (s, 1H), 11.32 (s, 1H); m/s: M+H+ 495, 497.

reactant | 3,4-Dimethoxybenzoyl chloride | 200 mg | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | triethylamine | 0.125 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(3-amino-4-chloroanilino)-6,7-dimethoxyquinazoline | 150 mg | NC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=CC1Cl | C16H15ClN4O2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 4-[4-Chloro-3-(3,4dimethoxybenzamido)anilino]-6,7-dimethoxyquinazoline hydrochloride | Cl.ClC1=C(C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OC)C=C1)NC(C1=CC(=C(C=C1)OC)OC)=O | InChI=1S/C25H23ClN4O5.ClH/c1-32-20-8-5-14(9-21(20)33-2)25(31)30-19-10-15(6-7-17(19)26)29-24-16-11-22(34-3)23(35-4)12-18(16)27-13-28-24;/h5-13H,1-4H3,(H,30,31)(H,27,28,29);1H
